US09108956B2
Step 1. Synthesis of Methyl 2-(4-bromophenyl)hex-5-enoate
To a solution of methyl 4-bromophenylacetate (1 g, 4.37 mmol) in DMF (12 ml) at room temperature was added 60% NaH (0.227 g, 5.68 mmol) and the mixture was stirred at room temperature for 1 hr then was added 4-bromo-1-butene (0.487 ml, 4.80 mmol). The reaction was stirred at room temperature overnight. The reaction was quenched by sat. aq. NH4Cl and was extracted with EtOAc. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (0 to 30% DCM/Hep) to give the title compound 1.1 g (yield 89%). Retention time 1.54 min (condition A).

reactant | methyl 4-bromophenylacetate | 4.37 mmol, 1 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | NaH | 5.68 mmol, 0.227 g | [H-].[Na+]
reactant | 4-bromo-1-butene | 4.80 mmol, 0.487 ml | BrCCC=C | C4H7Br
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(4-bromophenyl)hex-5-enoate | 1.1 g, yield 89% | BrC1=CC=C(C=C1)C(C(=O)OC)CCC=C | C13H15BrO2
